US08034938B2
tert-Butyl 3-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (820 mg, 2.15 mmol) was dissolved in 20 mL of CH2Cl2 and treated with 3-chloroperoxybenzoic acid (648 mg, 57-86%). After stirring for 2 h, the reaction mixture was treated with 20 mL of 2% Na2CO3 solution and the layers were separated. The aqueous layer was then extracted with CH2Cl2 (3×20 mL). The combined organic layers were concentrated under reduced pressure to give tert-butyl 3-[(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (850 mg) as a crusty, off-white solid.

reactant | tert-Butyl 3-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 2.15 mmol, 820 mg | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)CCCNC(OC(C)(C)C)=O | C21H26N4O3
reactant | 3-chloroperoxybenzoic acid | 648 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 850 mg | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)COC[C@@H]1CCCNC(OC(C)(C)C)=O | C21H26N4O4
